US08802659B2
{[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-acetic acid
To a solution of {[6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-acetic acid ethyl ester (60 mg, 0.15 mmol) in methanol (1 mL) was added aqueous lithium hydroxide (4.2 M, 0.5 mL, 2 mmol) to form a white precipitate. The mixture slurry was stirred at room temperature for 3 hrs then at 50° C. for 2 hrs. The slurry was neutralized with 1 N HCl to pH 6 and the white precipitate was filtered and dried under vacuum to give white precipitate (48 mg, yield: 86%). ESI-MS: 392.3 (M+23)+; 1H NMR (400 MHz, DMSO) δ=7.77-7.82 (m, 3H), 7.48 (dd, 1H), 7.37 (d, 1H), 7.15 (dd, 1H), 4.38 (m, 1H), 4.07 (s, 2H), 3.16 (s, 2H), 2.20 (d, 2H), 1.82 (d, 2H), 1.35 (m, 2H), 1.10-1.25 (m, 3H), 0.89 (s, 9H).

reactant | {[6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-acetic acid ethyl ester | 0.15 mmol, 60 mg | C(C)OC(CNCC1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C25H35NO3
reactant | lithium hydroxide | 2 mmol, 4.2 M, 0.5 mL | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | {[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-acetic acid | 48 mg, yield: 86% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCC(=O)O | C23H31NO3
